US07893059B2
5-Chloro-7-morpholinothiazolo[5,4-d]pyrimidine-2-carbaldehyde was dissolved in dichloroethane with 1-methylsulfonylpiperazine hydrochloride (1.45 eq), sodium acetate (1.45 eq), and trimethylorthoformate (1.45 eq). The solution was stirred overnight. Sodium triacetoxyborohydride (1.35 eq) was added and after three hours at room temperature the reaction was quenched with saturated sodium bicarbonate solution. The aqueous was extracted with methylene chloride, dried with sodium sulfate and purified by silica gel chromatography to give 5-chloro-2-((4-methylsulfonylpiperazin-1-yl)methyl)-7-morpholinothiazolo[5,4-d]pyrimidine.

reactant | 5-Chloro-7-morpholinothiazolo[5,4-d]pyrimidine-2-carbaldehyde | ClC=1N=C(C2=C(N1)SC(=N2)C=O)N2CCOCC2 | C10H9ClN4O2S
reactant | 1-methylsulfonylpiperazine hydrochloride | 1.45 eq | Cl.CS(=O)(=O)N1CCNCC1
reactant | sodium acetate | 1.45 eq | C(C)(=O)[O-].[Na+]
reactant | trimethylorthoformate | 1.45 eq | COC(OC)OC | C4H10O3
reactant | Sodium triacetoxyborohydride | 1.35 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | 5-chloro-2-((4-methylsulfonylpiperazin-1-yl)methyl)-7-morpholinothiazolo[5,4-d]pyrimidine | ClC=1N=C(C2=C(N1)SC(=N2)CN2CCN(CC2)S(=O)(=O)C)N2CCOCC2 | C15H21ClN6O3S2
